### ISSUE TITLE
[Correction] JSP-000301 Lean proof and claim eligibility

### ISSUE THREAD

**Issue by xneolxnoel** [TheJustinSunPrize/awards#63]
### Record or document

`problems/catalog-0301-0400.md` — section `JSP-000301`
Also update the matching row in `problems/README.md` problem index.

### Current text and proposed correction

**Current (as of awards catalog):**
- Current status: Solved (disproved): 12167 = 23³ and 12168 = 2³ × 3² × 13² are consecutive powerful numbers, and neither is a perfect square.
- Lean proof: No
- Eligible to claim: No
- Claim status: Unavailable

**Proposed:**
- Current status: leave the classical mathematical credit / counterexample unchanged (Go70 / Wa76 / Gu04 literature as in the catalog).
- Lean proof: **Yes** — public repository https://github.com/xneolxnoel/jsp-000301-lean , commit `d82a2ae4a98138839c86557371902fe784439144`, theorem `PowerfulConsecutive.theorem_jsp_000301` (Lean `v4.34.0`, Mathlib `5ed2965256430c3649e86755f9576b54eca72435`).
- Eligible to claim: **Yes** (Solved + Lean Yes), subject to curator verification that the formal statement matches the catalog yes/no question (existence of consecutive powerful non-squares).
- Claim status: **Unclaimed**

Optional note under Lean proof / Public review:
> Formalization packages the catalog counterexample `12167`, `12168`. Mathematical discovery remains classical literature. Independent Lean verification by prize verifiers remains separate from this catalog update.

### Evidence and affected records

- Mathematical source: catalog § JSP-000301; [Go70], [Wa76], [Gu04].
- Lean project: https://github.com/xneolxnoel/jsp-000301-lean @ `d82a2ae4a98138839c86557371902fe784439144`
- Build: `lake build` succeeds; theorem axioms limited to `propext`, `Classical.choice`, `Quot.sound` (no `sorryAx`).
- Affected: JSP-000301 detail table; problems README index columns Lean / Eligible / Claim status.

### Relevant conflicts

None known for this catalog correction. Formalization contributors and classical mathematical authorship are distinct; see the parallel recipient recommendation issue.

**Comment by xneolxnoel** [comment]
Parallel recipient recommendation for the Mathlib formalization at https://github.com/xneolxnoel/jsp-000301-lean : https://github.com/TheJustinSunPrize/awards/issues/64

Note: another Recipient issue for the same problem already exists (#62). Maintainers may want to compare both.

**Comment by hmz0629** [comment]
## Supplementary checked proof for JSP-000301

This comment provides an additional short Lean verification of the classical
counterexample already recorded in the catalog. It belongs in this existing
correction discussion rather than a duplicate issue. It does not request a
new mathematical discovery credit, priority, or an award allocation.

Pinned proof source: [Proof.lean at 9515c591808c64a1bb465f84598ad2cdf5dcfedf](https://github.com/hmz0629/jsp-000301-verification/blob/9515c591808c64a1bb465f84598ad2cdf5dcfedf/Proof.lean).

Recorded checker output: [Lean response log](https://github.com/hmz0629/jsp-000301-verification/blob/9515c591808c64a1bb465f84598ad2cdf5dcfedf/Proof.remote-log.json).

### Mathematical answer

The answer is **no**. The consecutive positive integers
`12167 = 23^3` and `12168 = 2^3 * 3^2 * 13^2` are both powerful: every prime
factor has exponent at least two. Neither is a square because
`110^2 = 12100 < 12167 < 12168 < 12321 = 111^2`.

This addresses exactly the catalog's yes/no question, not Erdős #365's
separate counting problem.

### Attribution

The classical witness is taken from
[the existing catalog](https://github.com/TheJustinSunPrize/awards/blob/main/problems/catalog-0301-0400.md#JSP-000301).
The catalog cites Golomb (1970), Walker (1976), and Guy (2004); no exact historical
priority is asserted here. Prior formalization evidence is already in #63 and
#64 (with another submission linked from #64). Those credits remain distinct.
This supplementary file was written with AI assistance after consulting that
public context. Its proof route checks finite prime-factor certificates and
uses `Nat.mem_primeFactors` to establish the unrestricted definition.

### Verification performed

- Lean: `leanprover/lean4:v4.34.0`.
- Mathlib: `5ed2965256430c3649e86755f9576b54eca72435`.
- Actual check: the official Lean playground at `https://live.lean-lang.org/`,
  project `mathlib-stable`, via its Lean language-server connection, on 2026-09-17.
- Final diagnostics: no errors or warnings; the completion marker was received.
- Both main theorems have exactly `[propext, Classical.choice, Quot.sound]` as
  axiom dependencies. No `sorryAx`, custom axiom, or native computation axiom.
- Proof source SHA-256: `d17f7d4b9ebf8c5317829001bd8bfe1bc5edf512158ea2f08063f27790f50d2f`.
- An additional Python exact-integer calculation confirms the arithmetic.

This is remote checking, not a claimed local `lake build`, signed attestation,
or independent human review. Imported Mathlib was not independently rebuilt.
Please evaluate statement alignment and evidence under the repository's normal
review process; this comment alone does not establish eligibility or an award.

### Complete proof source

Save the code below as `Proof.lean` in a project with the pinned toolchain and
Mathlib revision above, then run `lake env lean Proof.lean`.

```lean
/-
SPDX-License-Identifier: MIT

Supplementary formal verification of the classical counterexample in JSP-000301.
The witness is already recorded by The Justin Sun Prize contributors and in
earlier submissions, including awards issues #63 and #64. No mathematical
discovery, priority, or award entitlement is claimed here.

This file uses a finite prime-factor certificate, connected to the unbounded
definition below by Mathlib's Nat.mem_primeFactors theorem.
-/
import Mathlib

namespace JSP000301

/-- A positive integer is powerful when every prime divisor has its square
as a divisor. This quantifies over all natural-number primes. -/
def Powerful (n : ℕ) : Prop :=
  0 < n ∧ ∀ p : ℕ, Nat.Prime p → p ∣ n → p ^ 2 ∣ n

theorem powerful_of_certificate {n : ℕ} (hn : 0 < n)
    (cert : ∀ p ∈ n.primeFactors, p ^ 2 ∣ n) : Powerful n := by
  refine ⟨hn, ?_⟩
  intro p hp hpn
  exact cert p (Nat.mem_primeFactors.mpr ⟨hp, hpn, Nat.ne_of_gt hn⟩)

theorem powerful_12167 : Powerful 12167 := by
  apply powerful_of_certificate (by decide)
  have hf : (12167 : ℕ).primeFactors = {23} := by simp [Nat.primeFactors]
  rw [hf]
  decide

theorem powerful_12168 : Powerful 12168 := by
  apply powerful_of_certificate (by decide)
  have hf : (12168 : ℕ).primeFactors = {2, 3, 13} := by simp [Nat.primeFactors]
  rw [hf]
  decide

theorem factorizations :
    (12167 : ℕ) = 23 ^ 3 ∧ 12168 = 2 ^ 3 * 3 ^ 2 * 13 ^ 2 := by
  decide

theorem neither_square :
    ¬ IsSquare (12167 : ℕ) ∧ ¬ IsSquare (12168 : ℕ) := by
  norm_num

/-- Exact negative answer to the catalog's yes/no question. -/
theorem counterexample :
    ∃ n : ℕ, 0 < n ∧ Powerful n ∧ Powerful (n + 1) ∧
      ¬ IsSquare n ∧ ¬ IsSquare (n + 1) := by
  exact ⟨12167, by decide, powerful_12167, powerful_12168,
    neither_square.1, neither_square.2⟩

theorem conjecture_false :
    ¬ (∀ n : ℕ, 0 < n → Powerful n → Powerful (n + 1) →
      IsSquare n ∨ IsSquare (n + 1)) := by
  intro h
  rcases h 12167 (by decide) powerful_12167 powerful_12168 with h1 | h2
  · exact neither_square.1 h1
  · exact neither_square.2 h2

end JSP000301

#print axioms JSP000301.counterexample
#print axioms JSP000301.conjecture_false
#eval Lean.versionString
#eval "CHECK_COMPLETE"
```

The new code is offered under the MIT license. The classical result is not
claimed as new work. Relevant professional relationships or conflicts for the
account posting this comment have not been independently established by the
automated assistant and should not be inferred from this verification.
